US06313299B1
7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid.
150 mg of 1-cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid and 320 mg of t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate were added to 10 ml of acetonitrile and the resulting mixture was refluxed for 7 hours and then cooled to room temperature. The precipitated solid was filtered and dried to give 120 mg of the titled compound(yield: 55.5%).

reactant | 1-cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 150 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate | 320 mg | CON=C1CNCC12CN(C2)C(=O)OC(C)(C)C | C12H21N3O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 120 mg, yield: 55.5% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=C2F)C2CC2)C(=O)O)=O)F | C25H28F2N4O6
